US09388189B2
(S)—N-Methyl-N-(3-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)methanesulfonamide
(S)—N-Methyl-N-(3-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)methanesulfonamide (143 mg, 0.20 mmol) was treated with trifluoroacetic acid (3.8 ml, 49 mmol) and a solution of ammonia (7N in methanol, 3.8 ml, 27 mmol) according to the method described in Example 27 to give 103 mg (86% yield) of the title compound. Purity 96%.

reactant | (S)—N-Methyl-N-(3-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)methanesulfonamide | 0.20 mmol, 143 mg | CN(S(=O)(=O)C)C1=CC(=CC=C1)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C35H42N8O4SSi
reactant | trifluoroacetic acid | 49 mmol, 3.8 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonia | 27 mmol, 7N, 3.8 ml | N | H3N
product | (S)—N-Methyl-N-(3-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)methanesulfonamide | 103 mg, 86% yield | CN(S(=O)(=O)C)C1=CC(=CC=C1)C1=CNC=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C | C29H28N8O3S
